US05506261
To a 0° C. solution in THF (200 mL) of 3-butyn-2-ol (3.00 g, 42.9 mmol), N,O-bis(phenoxycarbonyl)hydroxylamine (11.7 g, 42.9 mmol), prepared according to the method of Stewart and Brooks, J. Org. Chem. 1992, 57, 5020, and triphenylphosphine (11.7 g, 42.9 mmol), was added dropwise diethylazodicarboxylate (7.40 g, 42.8 mmol). The reaction mixture was stirred for 2 hours at 0°-5° C. and then was concentrated almost to dryness. The residue was diluted with ethyl acetate, the solids were filtered off, and the filtrate was concentrated in vacuo. Chromatography on silica gel (5% ethyl acetate, pentane) provided N,O-bis(phenoxycarbonyl)-N-(3-butyn-2-yl)hydroxylamine (12.3 g, 88%).

reactant | 3-butyn-2-ol | 42.9 mmol, 3.00 g | CC(C#C)O | C4H6O
reactant | N,O-bis(phenoxycarbonyl)hydroxylamine | 42.9 mmol, 11.7 g | O(C1=CC=CC=C1)C(=O)NOC(=O)OC1=CC=CC=C1 | C14H11NO5
reactant | triphenylphosphine | 42.9 mmol, 11.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 42.8 mmol, 7.40 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N,O-bis(phenoxycarbonyl)-N-(3-butyn-2-yl)hydroxylamine | 12.3 g, 88% | O(C1=CC=CC=C1)C(=O)N(OC(=O)OC1=CC=CC=C1)C(C)C#C | C18H15NO5
